US06913903B2
Hexaethylene glycol monobenzyl ether (1).
An aqueous sodium hydroxide solution prepared by dissolving 3.99 g (100 mmol) NaOH in 4 ml water was added slowly to monodispersed hexaethylene glycol (28.175 g, 25 ml, 100 mmol). Benzyl chloride (3.9 g, 30.8 mmol, 3.54 ml) was added and the reaction mixture was heated with stirring to 100° C. for 18 hours. The reaction mixture was then cooled, diluted with brine (250 ml) and extracted with methylene chloride (200 ml×2). The combined organic layers were washed with brine once, dried over Na2SO4, filtered and concentrated in vacuo to a dark brown oil.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | NaOH | 100 mmol, 3.99 g | [OH-].[Na+]
reactant | hexaethylene glycol | 100 mmol, 25 ml, 28.175 g | C(COCCOCCOCCOCCOCCO)O | C12H26O7
reactant | Benzyl chloride | 30.8 mmol, 3.54 ml, 3.9 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | 4 ml | O | H2O
solvent | brine | 250 ml | [Cl-].[Na+].O
product | Hexaethylene glycol monobenzyl ether | C(C1=CC=CC=C1)OCCOCCOCCOCCOCCOCCO | C19H32O7
